US09212165B2
Step 6: 3-(Pyrazin-2-ylethynyl)-1-adamantylamine
To a stirred solution of tert-butyl 3-(pyrazin-2-ylethynyl)-1-adamantylcarbamate (108 mg, 0.31 mol) in DCM (3 mL) was added TFA (0.5 mL). After stirring at room temperature for an hour, the reaction was concentrated under reduced pressure. The resulting residue was diluted with DCM (25 mL), washed with Sat. NaHCO3 and brine, dried over Na2SO4 and concentrated under reduced pressure to yield 60 mg (78%) of the title compound, 3-(pyrazin-2-ylethynyl)-1-adamantylamine, as a white solid. ESI-MS m/z: 254 (M+H)+.

reactant | tert-butyl 3-(pyrazin-2-ylethynyl)-1-adamantylcarbamate | 0.31 mol, 108 mg | N1=C(C=NC=C1)C#CC12CC3(CC(CC(C1)C3)C2)NC(OC(C)(C)C)=O | C21H27N3O2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(Pyrazin-2-ylethynyl)-1-adamantylamine | 60 mg, 78% | N1=C(C=NC=C1)C#CC12CC3(CC(CC(C1)C3)C2)N | C16H19N3
